US07442839B2
iii) N-{5-(Bromoacetyl)-2-[(phenylmethyl)oxy]phenyl}-N-(phenylmethyl)methanesulfonamide
A solution of N-{5-acetyl-2-[(phenylmethyl)oxy]phenyl}-N-(phenylmethyl) methanesulfonamide (J. Med Chem 1977, 20, 687-92) (1.18 g) in THF (50 ml) was treated with phenyltrimethylammonium tribromide (1.08 g) at <10° and stirred for 6 h. The reaction mixture was quenched with chilled water and then filtered. The filtrate was partitioned between diethyl ether and water, the organic phase was dried (MgSO4) and the solvent was removed in vacuo. The mixture was purified by column chromatography on silica (SPE bond elut, gradient 0 to 45% EtOAc-cyclohexane) to afford the title compound. LCMS RT=3.48 min

reactant | N-{5-acetyl-2-[(phenylmethyl)oxy]phenyl}-N-(phenylmethyl) methanesulfonamide | 1.18 g | C(C)(=O)C=1C=CC(=C(C1)N(S(=O)(=O)C)CC1=CC=CC=C1)OCC1=CC=CC=C1 | C23H23NO4S
reactant | phenyltrimethylammonium tribromide | 1.08 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-{5-(Bromoacetyl)-2-[(phenylmethyl)oxy]phenyl}-N-(phenylmethyl)methanesulfonamide | BrCC(=O)C=1C=CC(=C(C1)N(S(=O)(=O)C)CC1=CC=CC=C1)OCC1=CC=CC=C1 | C23H22BrNO4S
